US07838674B2
b) 2-(4-Methyl-piperazin-1-yl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile
5-Bromo-2-(4-methyl-piperazin-1-yl)-benzonitrile (2.65 g, 9.5 mmol) is dissolved in 100 ml dioxane. Bis(pinacolato)diboron (4.80 g, 18.9 mmol), potassium acetate (5.62 g, 56.8 mmol) and Pd(Cl2)(dppf)2 (774 mg, 0.95 mmol) are added. The reaction mixture is stirred at 80 C for 16 hours. Addition of water and extraction into ethylacetate yields the crude title compound which is used without further purification. LC-MS (m/z, ES+): 328 (MH+), Retention time: 0.87 mins (LC-MS method 7)

reactant | 5-Bromo-2-(4-methyl-piperazin-1-yl)-benzonitrile | 9.5 mmol, 2.65 g | BrC=1C=CC(=C(C#N)C1)N1CCN(CC1)C | C12H14BrN3
reactant | Bis(pinacolato)diboron | 18.9 mmol, 4.80 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 56.8 mmol, 5.62 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-(4-Methyl-piperazin-1-yl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzonitrile | CN1CCN(CC1)C1=C(C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H26BN3O2
